2179-02-06 07:17:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
 ULTRASOUND - At [**2179-2-5**] 04:04 PM
 MULTI LUMEN - START [**2179-2-5**] 07:00 PM
   - Renal U/S:  right hydronephrosis, right hydroureter, ? soft tissue
   mass obstruction, no stones, multiple small right renal cyst with large
   right exophytic lesion with fluid level
   - Urology consult
   - GNRs in [**2-16**] and GPCs in pairs in chains in [**2179-2-5**] blood cultures
   - weaned to nasal cannula this morning
   - hematuria resolved by morning, d/c'd CBI
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2179-2-6**] 02:00 AM
   Vancomycin - [**2179-2-6**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-2-5**] 10:00 PM
   Pantoprazole (Protonix) - [**2179-2-5**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   denies pain, history limited [**2-16**] deafness/dementia
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2179-2-6**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 80 (80 - 103) bpm
   BP: 139/77(95) {83/51(62) - 162/77(95)} mmHg
   RR: 20 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 0 (-3 - 14)mmHg
   SvO2: 73%
   Total In:
                                                                  2,152 mL
                                                                  1,105 mL
   PO:
   TF:
   IVF:
                                                                  2,152 mL
                                                                  1,105 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  3,000 mL
   Urine:
                                                                  3,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,152 mL
                                                                 -1,895 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.46/24/163/17/-4
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Diminished: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   158 K/uL
   9.4 g/dL
   134 mg/dL
   2.9 mg/dL
   17 mEq/L
   4.8 mEq/L
   49 mg/dL
   114 mEq/L
   141 mEq/L
   29.9 %
   20.1 K/uL
        [image002.jpg]
                             [**2179-2-5**]  12:29 PM
                             [**2179-2-5**]  03:14 PM
                             [**2179-2-5**]  03:39 PM
                             [**2179-2-5**]  03:54 PM
                             [**2179-2-5**]  09:27 PM
                             [**2179-2-6**]  03:07 AM
   WBC
   20.1
   Hct
   27.1
   29.0
   29.9
   Plt
   158
   Cr
   3.1
   2.9
   TropT
   0.11
   TCO2
   18
   18
   Glucose
   108
   134
   Other labs: PT / PTT / INR:14.7/40.4/1.3, CK / CKMB /
   Troponin-T:244/7/0.11, Lactic Acid:1.9 mmol/L, Ca++:7.6 mg/dL, Mg++:2.6
   mg/dL, PO4:4.5 mg/dL
   Imaging: Renal U/S:  right hydronephrosis, right hydroureter, ? soft
   tissue mass obstruction, no stones, multiple small right renal cyst
   with large right exophytic lesion with fluid level
   Microbiology: [**2179-2-5**] 8:05 am BLOOD CULTURE
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
         GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
      Anaerobic Bottle Gram Stain (Final [**2179-2-6**]):
         REPORTED BY PHONE TO DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] PAGER [**Numeric Identifier 11020**] @ 0218 ON
         [**2179-2-6**].
         GRAM NEGATIVE ROD(S).
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS
   [**2179-2-5**] 7:55 am BLOOD CULTURE      #1.
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
      Anaerobic Bottle Gram Stain (Final [**2179-2-6**]):
         REPORTED BY PHONE TO DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] PAGER # [**Numeric Identifier 11020**] @ 0218 ON
         [**2179-2-6**].
         GRAM NEGATIVE ROD(S).
   Assessment and Plan
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 HYPERTENSION, BENIGN
 GASTRITIS
 HYPOTHYROIDISM
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Assessment and Plan
   [**Age over 90 **] yo male p/w SIRS/sepsis of likely pulm of urinary source, ARF, and
   hematuria.
   .
   #. SIRS/sepsis:  Fever and fluid responsive hypotension thus far.
   Hypothermic here.  Most likely sources include GU tract vs. pna given
   initial hypoxia, tachypnea and opacities in lungs.  ABG 7.40/28/56/18.
   Tachypnea likely compensatory for metabolic acidosis as well as [**2-16**]
   hypoxia.  Hypoxia likely [**2-16**] airspace disease.  Anion Gap likely from
   lactate and arf.  Recent ulcer clipping is concerning for GI source,
   though abdomen is nontender.  CVL placed.  Antibiotics covering
   nosocomial sources.  Micro data suggest GU source, septic shock [**2-16**]
   UTI.
   - MAP goal > 60-65
   - CVP goal [**8-26**], UOP goal > 30cc/hr, gentle bolus
   - f/u U/A, BCx, UCx
   - broad spectrum antibiotics with vanc/cefepime/levo, awaiting
   speciation
   - will d/c flagyl
   - bear hugger for hypothermia
   - surveillance cultures
   - will attempt to obtain VA records
   .
   #. ARF: Baseline Cr 0.8 upon discharge from [**Hospital1 **] on [**1-24**], though he may
   have had an admission to the [**Hospital1 318**] in between for ARF.  Unclear
   cause.  ? ATN from hypotension.  Unclear if he received dyeload.
   Post-renal also possibility given indwelling foley and history of
   obstruction last night.  Ultrasound shows right-sided obstruction, no
   left-sided obstruction.  [**Month (only) 8**] need further imaging, e.g. MRI.
   - follow Cr, UOP
   - urine lytes
   - [**Hospital1 318**] records
   - holding terazosin in setting of sepsis
   - consider further imaging for eval of right renal complex cyst,
   appreciate Urology recs
   .
   #. hematuria: suspect traumatic cause with replacement of foley.  Coags
   wnl.  Resolved this morning.
   - discontinued CBI with three way foley, cont to monitor
   - Urology consult, appreciate recs
   .
   #. ? syncopal event: ekg unconcerning for acute event.  Elevated trop
   in setting of ARF as below and nl CK/CKMB.
   - trend CEs -> trop up slightly, cont to trend
   - monitor on tele
   .
   #. gastric ulcer: h. pylori positive by serology but not biopsy of
   ulcer, planned for when he is more stable. Guaiac negative and benign
   abd exam.
   - PPI
   - f/u EGD with biopsy after medically stable
   .
   #. lung nodules: CT vs f/u CXR as outpatient
   .
   #. elevated Trop: other CEs negative, in setting of ARF.
   - trend as above
   .
   #. HTN: holding atenolol and fosinopril in setting of sepsis
   .
   #. Hypothyroid: cont levothyroxine
   .
   #  dementia: cont donepezil and prn antipsychotics for agitation
   .
   FEN: IVF as above / regular diet/ replete lytes
   .
   PPX:
   -DVT ppx with SCH
   -Bowel regimen
   .
   ACCESS: RIJ
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: Wife, [**Name (NI) **] [**Name (NI) **], HCP.  [**Telephone/Fax (1) 11118**]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-2-5**] 12:54 PM
   18 Gauge - [**2179-2-5**] 12:56 PM
   Multi Lumen - [**2179-2-5**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-02-06 08:09:00 Physician Attending Progress Note
Chief Complaint: SEPSIS, HYPOTENSION
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for full details.  In brief, [**Age over 90 **]M who presented with fevers,
   hypotension, concern for urosepsis.
   24 Hour Events:
 RENAL ULTRASOUND
 R hydroureter and hydronephrosis
 MULTI LUMEN CVC Placed in ED
 Urology consult for R hydro, sepsis, and hematuria
 Blood cultures grew
 GNRs and GPCs
 Fluid resuscitated
 Improving O2 requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2179-2-6**] 02:00 AM
   Vancomycin - [**2179-2-6**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-2-5**] 10:00 PM
   Pantoprazole (Protonix) - [**2179-2-5**] 11:56 PM
   Other medications:
   Colace, sucralfate, donepizil, flagyl, levofloxacin, vancomycin,
   cefepime
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-6**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 93 (80 - 103) bpm
   BP: 134/71(85) {83/51(62) - 162/77(95)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 4 (-3 - 14)mmHg
   SvO2: 78%
   Total In:
                                                                  2,152 mL
                                                                  1,148 mL
   PO:
   TF:
   IVF:
                                                                  2,152 mL
                                                                  1,148 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  3,150 mL
   Urine:
                                                                  3,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,152 mL
                                                                 -2,002 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L NC
   SpO2: 100%
   ABG: 7.46/24/163/17/-4
   PaO2 / FiO2: 326
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 1+ DP bilateral
   Respiratory / Chest: (Breath Sounds: Crackles at bases w/ Bronchial
   breath sounds )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful
   Labs / Radiology
   9.4 g/dL
   158 K/uL
   134 mg/dL
   2.9 mg/dL
   17 mEq/L
   4.8 mEq/L
   49 mg/dL
   114 mEq/L
   141 mEq/L
   29.9 %
   20.1 K/uL
        [image002.jpg]
                             [**2179-2-5**]  12:29 PM
                             [**2179-2-5**]  03:14 PM
                             [**2179-2-5**]  03:39 PM
                             [**2179-2-5**]  03:54 PM
                             [**2179-2-5**]  09:27 PM
                             [**2179-2-6**]  03:07 AM
   WBC
   20.1
   Hct
   27.1
   29.0
   29.9
   Plt
   158
   Cr
   3.1
   2.9
   TropT
   0.11
   TCO2
   18
   18
   Glucose
   108
   134
   Other labs: PT / PTT / INR:14.7/40.4/1.3, CK / CKMB /
   Troponin-T:244/7/0.11, Lactic Acid:1.9 mmol/L, Ca++:7.6 mg/dL, Mg++:2.6
   mg/dL, PO4:4.5 mg/dL
   Blood Cx
 [**2-4**]
 GNRs, GPCs, ID and sensis pending
   Renal US
 R hydroureter and hydronephrosis, concern for exophytic R
   renal mass, R renal cyst
   CXR
 R IJ in position, bibasilar hazy opacities, atelectasis vs
   infiltrate, trace bilateral effusions
   Assessment and Plan
 SEPTIC SHOCK
 Given complicated R renal US picture, concern for
   urine vs pulmonary source.  Will follow culture data, stop flagyl,
   continue other [**Last Name (LF) 1679**], [**First Name3 (LF) 124**] obtain antibiotic approval.
   - U/A, lytes, culture now that hematuria improved
   - Maintain CVP 8-12, MAP >65, IVB as needed, pressors if not responsive
   and adequate CVP
   - Monitor UOP
   - Cefepime, vanco, levo, follow up cultures, renally dose
   - Urology consult for possible intervention on R ureter, appreciate
   input
   - Repeat blood cultures
 RENAL FAILURE, ACUTE
 Likely pre-renal given rapid improvement,
   check UA, urine lytes to assess for ATN.  Of note is on an ACEi at
   baseline which may be contributing.
   - Trend Cr, BUN
 h/o HYPERTENSION
 Currently holding BP meds, will gradually
   reinstitute if MAPS elevated and evidence of good tissue perfusion.
   - Consider low dose metoprolol if BPs elevated
   - Hold ACEi
 GASTRITIS, H/O GASTRIC ULCER
 On PPI and sucralfate, had recently
   clipped gastric ulcer
   - Trend Hct
   - Continue acid suppression
 HYPOTHYROIDISM
 Continue synthroid
 H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 At baseline is
   deaf and non-verbal, communicates by nodding to written questions.  On
   donepizil.
   - Continue home meds, follow mental status
 H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 Troponin
   slightly elevated and uptrending.
   - Trend troponin
   ICU Care
   Nutrition: Will start POs, ground, low salt, monitor for aspiration
   Glycemic Control:  Follow finger sticks
   Lines:
   16 Gauge - [**2179-2-5**] 12:54 PM
   18 Gauge - [**2179-2-5**] 12:56 PM
   Multi Lumen - [**2179-2-5**] 07:00 PM
   Prophylaxis:
   DVT: Hep Sc
   Stress ulcer: PPI, sucralfate
   VAP: N/A
   Comments:
   Communication:  Comments: With patient and wife
   [**Name (NI) 156**] status: Full
   Disposition : MICU for now
   Total time spent: 40 minutes
   Patient is critically ill

2179-02-08 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - IR doesnt want to stick a needle in septated cyst without further
   imaging, will get back to us re: MRI
   - BP crept up, replaced atenolol with metoprolol to good response
   .
   [**2-7**]
   - uptitrated metoprolol and captopril
   - restarted home Risperdal, had to give one dose IV Haldol when
   refusing POs
   - had episode RR 40's, seem anxious, gave haldol as above
   - discuss narrowing abx in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2179-2-6**] 02:00 AM
   Cefipime - [**2179-2-6**] 05:53 PM
   Levofloxacin - [**2179-2-7**] 08:37 AM
   Vancomycin - [**2179-2-7**] 08:01 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2179-2-7**] 08:22 PM
   Heparin Sodium (Prophylaxis) - [**2179-2-7**] 09:25 PM
   Pantoprazole (Protonix) - [**2179-2-8**] 12:22 AM
   Labetalol - [**2179-2-8**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-8**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 99 (65 - 118) bpm
   BP: 193/104(124) {143/56(79) - 210/120(142)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  3,834 mL
                                                                    452 mL
   PO:
                                                                  2,970 mL
                                                                    375 mL
   TF:
   IVF:
                                                                    864 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  4,200 mL
                                                                  1,150 mL
   Urine:
                                                                  4,000 mL
                                                                    900 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -366 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: agitated looking thin, AA male
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Crackles/Diminished: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   176 K/uL
   10.3 g/dL
   132 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   34 mg/dL
   118 mEq/L
   148 mEq/L
   32.3 %
   23.8 K/uL
        [image002.jpg]
                             [**2179-2-5**]  03:14 PM
                             [**2179-2-5**]  03:39 PM
                             [**2179-2-5**]  03:54 PM
                             [**2179-2-5**]  09:27 PM
                             [**2179-2-6**]  03:07 AM
                             [**2179-2-6**]  12:19 PM
                             [**2179-2-6**]  11:38 PM
                             [**2179-2-7**]  04:50 AM
                             [**2179-2-7**]  02:32 PM
                             [**2179-2-8**]  02:32 AM
   WBC
   20.1
   24.5
   23.8
   Hct
   27.1
   29.0
   29.9
   31.8
   32.3
   Plt
   158
   180
   176
   Cr
   3.1
   2.9
   1.9
   1.7
   1.4
   TropT
   0.11
   0.11
   0.09
   TCO2
   18
   Glucose
   108
   134
   141
   279
   132
   Other labs: PT / PTT / INR:14.7/40.4/1.3, CK / CKMB /
   Troponin-T:131/4/0.09, ALT / AST:19/44, Alk Phos / T Bili:64/0.5,
   Differential-Neuts:94.3 %, Lymph:3.1 %, Mono:1.5 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   [**2-6**] URINE CULTURE (Final [**2179-2-7**]):
         PROBABLE ENTEROCOCCUS.    7000 CFU/ML.
   [**2-5**] URINE CULTURE (Final [**2179-2-7**]):
         PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML..(pan-[**Last Name (un) 46**])
   [**2-5**] blood cx growing pan-[**Last Name (un) 46**] GNR and enterococcus
   Assessment and Plan
   [**Age over 90 **] yo male p/w SIRS/sepsis of likely pulm of urinary source, ARF, and
   hematuria.
   .
   #. SIRS/sepsis:  Hypotension and hypothermia have resolved at this
   point.  Most likely sources include GU tract given hydronephrosis.
   Growing Proteus in urine, and enterococcus in blood and urine, as well
   as other GNR in blood (maybe proteus). WBC stable. GI tract is another
   concerning area since pt continues to have diarrhea.
   - f/u GNR speciation
   - cont vanco for enterococcus, change to cipro for proteus/GNR and D/C
   levaquin/cefepime
   - surveillance cultures
   .
   #. HTN: Restarted metoprolol in place of atenolol, holding of on
   atenolol given that its renally cleared.  Given rapidly dropping
   creatinine GFR cannot be estimated (not steady state) therefore would
   assume normal renal function based on UOP, post ATN diuresis.
   Uptitrating captopril had little effect, labetalol also minimal effect.
   Patient anxiety seems to be contributing, although he denies any pain
   or anxiety.  Patient asymptomatic with stable MS and no signs of end
   organ damage
   - continue to uptitrate Captopril and metoprolol to max, then consider
   3^rd [**Doctor Last Name **] (ie hydral)
   - avoid alpha-blockers since on terazosin
   - control anxiety/delirium with risperidone and zyprexa prn
   .
   # Tachycardia:  MAT on EKG, improved control with increase
   beta-blockade, and limit anxiety with home risperadol, add zydis if
   necessary.
   ,
   #. ARF: Baseline Cr 0.8 upon discharge from [**Hospital1 **] on [**1-24**], though he may
   have had an admission to the [**Hospital1 318**] in between for ARF.  Unclear
   cause.  ? ATN from hypotension.  Unclear if he received dyeload.
   Currently resolving with massive autodiuresis (likely post-ATN
   diuresis),
   - follow Cr, UOP
   - Restarted terazosin
   - PSA elevated, pt likely has prostate CA and may need CTU to eval for
   obstruction (when [**Last Name (un) **] resolved)
   - appreciate urology recs
   .
   #. hematuria: suspect traumatic cause with replacement of foley.  Coags
   wnl.  Resolved
   .
   #Hypernatremia
 suspect massive low solute auto-diuresis as the cause,
   would encourage PO water today. Improved with encouraging water
   yesterday.
   - [**Hospital1 **] lytes
   .
   #. ? syncopal event: ekg unconcerning for acute event.  Elevated trop
   in setting of ARF as below and nl CK/CKMB, trending down.
   .
   #. gastric ulcer: h. pylori positive by serology but not biopsy of
   ulcer, planned for when he is more stable. Guaiac negative and benign
   abd exam.
   - PPI
   - f/u EGD with biopsy after medically stable
   .
   #. lung nodules: CT vs f/u CXR as outpatient
   .
   #. Hypothyroid: cont levothyroxine
   .
   #  dementia: cont donepezil and prn antipsychotics for agitation
   .
   FEN: IVF as above / regular diet/ replete lytes
   .
   PPX:
   -DVT ppx with SCH
   -Bowel regimen
   .
   ACCESS: RIJ
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: Wife, [**Name (NI) **] [**Name (NI) **], HCP.  [**Telephone/Fax (1) 11118**]
   .
   DISPOSITION: CALL OUT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-2-5**] 12:54 PM
   18 Gauge - [**2179-2-5**] 12:56 PM
   Multi Lumen - [**2179-2-5**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-02-08 09:54:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hypertension persists, requiring escalating anti-HTN medication doses.
   Offers no new significant complaints.
   Continues with diarrhea (non-bloody).
   Intermittently aggitated.
   Communicates by [**Location (un) 118**] written questions and answering verbally.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2179-2-6**] 02:00 AM
   Cefipime - [**2179-2-6**] 05:53 PM
   Levofloxacin - [**2179-2-7**] 08:37 AM
   Vancomycin - [**2179-2-8**] 08:32 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2179-2-7**] 08:22 PM
   Heparin Sodium (Prophylaxis) - [**2179-2-7**] 09:25 PM
   Pantoprazole (Protonix) - [**2179-2-8**] 12:22 AM
   Labetalol - [**2179-2-8**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-2-8**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 93 (65 - 118) bpm
   BP: 192/110(127) {143/56(79) - 200/118(134)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.6 kg (admission): 53 kg
   CVP: 2 (2 - 4)mmHg
   Total In:
                                                                  3,834 mL
                                                                    679 mL
   PO:
                                                                  2,970 mL
                                                                    375 mL
   TF:
   IVF:
                                                                    864 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  4,200 mL
                                                                  1,575 mL
   Urine:
                                                                  4,000 mL
                                                                  1,325 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                   -366 mL
                                                                   -896 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Flat
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   176 K/uL
   132 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   34 mg/dL
   118 mEq/L
   148 mEq/L
   32.3 %
   23.8 K/uL
        [image002.jpg]
                             [**2179-2-5**]  03:14 PM
                             [**2179-2-5**]  03:39 PM
                             [**2179-2-5**]  03:54 PM
                             [**2179-2-5**]  09:27 PM
                             [**2179-2-6**]  03:07 AM
                             [**2179-2-6**]  12:19 PM
                             [**2179-2-6**]  11:38 PM
                             [**2179-2-7**]  04:50 AM
                             [**2179-2-7**]  02:32 PM
                             [**2179-2-8**]  02:32 AM
   WBC
   20.1
   24.5
   23.8
   Hct
   27.1
   29.0
   29.9
   31.8
   32.3
   Plt
   158
   180
   176
   Cr
   3.1
   2.9
   1.9
   1.7
   1.4
   TropT
   0.11
   0.11
   0.09
   TCO2
   18
   Glucose
   108
   134
   141
   279
   132
   Other labs: PT / PTT / INR:14.7/40.4/1.3, CK / CKMB /
   Troponin-T:131/4/0.09, ALT / AST:19/44, Alk Phos / T Bili:64/0.5,
   Differential-Neuts:94.3 %, Lymph:3.1 %, Mono:1.5 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   SEPTIC SHOCK
  Hypotension and hypothermia now resolved, blood
   cultures w/GNRs and GPCs, Proteus in urine.  Concern for urinary
   source, although polymicrobial sepsis suggests potetial GI source
   (bowel microperferation), and diarrhea (possible C. Diff).  Continue
   current level of care, and empirical antimicrobials.
   RENAL CYSTS/MASS --  would require further imaging (Abd/pelvic CT).
   Urology and IR feel percutaneous drainage of complicated R renal cyst
   or hydronephrosis needed currently, but if persistently bacteremic will
   need to reassess.
   BACTEREMIA -- Enterococcus, and 2 GNRs (awaiting identification).
   Possible urinary source, but consider GI source.  Continue
   antimicrobials --> Vanco, Cipro, and consider emipirical Flagyl PO.
   HYPERTENSION
  Receiving atenolol and lisinopril prior to admission,
   now intermittently using iv hydralazine.  Restart low-dose captopril
   (creatinine improved).  Goal BP= 150-170 mmHg.
   TACHYCARDIA -- Narrow complex, intermittently irregular rhythm.
   Anxiety.  Monitor.  Use b-blocker.
   RENAL FAILURE, ACUTE
 Likely pre-renal and ATN, now rapidly improving.
   HYPERNATREMIA -- Volume resussitation.  Monitor Na+, provide free H2O
   --> replete iv if inadequate POs.
   NUTRITIONAL SUPPORT -- PO.  Provide suppliments.
   HEMATURIA -- Resoved.  Markedly elvated PSA
 Hematuria resolved, off
   of CBI.  Will discuss with urology about follow-up of PSA
   HYPOTHYROIDISM
 continue synthroid
   DEMENTIA
 Extent of dementia unclear, may be siginificant component of
   deafness limiting communications.  On donepizil and risperidone.
   CAD --  troponin leak in setting of hypotension (demand), now
   declining.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-2-5**] 12:54 PM
   18 Gauge - [**2179-2-5**] 12:56 PM
   Multi Lumen - [**2179-2-5**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2179-02-09 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - uptitrated captopril, metop, added nifedipine ->
   better control, SBP 150s-170s
   - lot of ectopy on tele, repleted lytes
   - narrowed Abx to ampicillin (pan-sensitive Proteus and Enterococcus)
   24 Hour Events:
 MULTI LUMEN - STOP [**2179-2-8**] 05:43 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2179-2-6**] 05:53 PM
   Levofloxacin - [**2179-2-7**] 08:37 AM
   Vancomycin - [**2179-2-8**] 08:32 AM
   Ciprofloxacin - [**2179-2-8**] 10:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-2-8**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-9**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 92 (90 - 112) bpm
   BP: 175/95(114) {136/62(82) - 202/110(127)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.6 kg (admission): 53 kg
   Height: 68 Inch
    CVP: 2 (2 - 2)mmHg
   Total In:
                                                                  3,777 mL
                                                                    879 mL
   PO:
                                                                  2,435 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,342 mL
                                                                    779 mL
   Blood products:
   Total out:
                                                                  5,255 mL
                                                                  1,920 mL
   Urine:
                                                                  4,805 mL
                                                                  1,920 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,478 mL
                                                                 -1,041 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: agitated looking thin, AA male
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Crackles/Diminished: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   155 K/uL
   11.3 g/dL
   146 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   21 mg/dL
   111 mEq/L
   146 mEq/L
   35.2 %
   15.9 K/uL
        [image002.jpg]
                             [**2179-2-5**]  03:39 PM
                             [**2179-2-5**]  03:54 PM
                             [**2179-2-5**]  09:27 PM
                             [**2179-2-6**]  03:07 AM
                             [**2179-2-6**]  12:19 PM
                             [**2179-2-6**]  11:38 PM
                             [**2179-2-7**]  04:50 AM
                             [**2179-2-7**]  02:32 PM
                             [**2179-2-8**]  02:32 AM
                             [**2179-2-9**]  03:13 AM
   WBC
   20.1
   24.5
   23.8
   15.9
   Hct
   27.1
   29.0
   29.9
   31.8
   32.3
   35.2
   Plt
   158
   180
   176
   155
   Cr
   3.1
   2.9
   1.9
   1.7
   1.4
   1.1
   TropT
   0.11
   0.11
   0.09
   Glucose
   108
   134
   141
   279
   132
   146
   Other labs: Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo male p/w SIRS/sepsis of likely pulm of urinary source, ARF, and
   hematuria.
   .
   #. SIRS/sepsis:  Hypotension and hypothermia have resolved at this
   point.  Most likely sources include GU tract given hydronephrosis. GI
   tract is another concerning area since pt continues to have diarrhea.
   Growing Proteus and enterococcus in blood and urine, both pan-[**Last Name (un) 46**]. WBC
   trending down.
   - cont ampicillin day [**5-28**]
   - surveillance cultures
   .
   #. HTN: Restarted metoprolol in place of atenolol, holding of on
   atenolol given that its renally cleared. Patient asymptomatic with
   stable MS and no signs of end organ damage. BP/HR improved with
   increased metoprolol, captopril, and nifedipine.
   - cont current regimen
   - goal SBP 150-160
   - avoid alpha-blockers since on terazosin
   - control anxiety/delirium with risperidone and zyprexa prn
   .
   # Tachycardia:  MAT on EKG, improved control with increase
   beta-blockade
   - had ectopy o/n, repleted lytes
   - [**Hospital1 **] lytes and replete prn
   ,
   #. ARF: Baseline Cr 0.8 upon discharge from [**Hospital1 **] on [**1-24**], though he may
   have had an admission to the [**Hospital1 318**] in between for ARF.  Unclear
   cause.  ? ATN from hypotension.  Unclear if he received dyeload.
   Currently resolving with massive autodiuresis (likely post-ATN
   diuresis),
   - follow Cr, UOP
   - Restarted terazosin
   - PSA elevated, pt likely has prostate CA and may need CTU to eval for
   obstruction (when [**Last Name (un) **] resolved)
   - appreciate urology recs
   .
   #. hematuria: suspect traumatic cause with replacement of foley.  Coags
   wnl.  Resolved
   .
   #Hypernatremia
 suspect massive low solute auto-diuresis as the cause,
   would encourage PO water today. Improved with encouraging water
   yesterday.
   - [**Hospital1 **] lytes
   .
   #. ? syncopal event: ekg unconcerning for acute event.  Elevated trop
   in setting of ARF as below and nl CK/CKMB, trending down.
   .
   #. gastric ulcer: h. pylori positive by serology but not biopsy of
   ulcer, planned for when he is more stable. Guaiac negative and benign
   abd exam.
   - PPI
   - f/u EGD with biopsy after medically stable
   .
   #. lung nodules: CT vs f/u CXR as outpatient
   .
   #. Hypothyroid: cont levothyroxine
   .
   #  dementia: cont donepezil and prn antipsychotics for agitation
   .
   FEN: IVF as above / regular diet/ replete lytes
   .
   PPX:
   -DVT ppx with SCH
   -Bowel regimen
   .
   ACCESS: RIJ
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: Wife, [**Name (NI) **] [**Name (NI) **], HCP.  [**Telephone/Fax (1) 11118**]
   .
   DISPOSITION: CALL OUT
   )
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-2-5**] 12:54 PM
   18 Gauge - [**2179-2-5**] 12:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-02-09 12:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis; Hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued to adjust anti-HTN meds, with escalation of Captopril and
   addition of Nifedipine.
   Now improved BP.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2179-2-6**] 05:53 PM
   Levofloxacin - [**2179-2-7**] 08:37 AM
   Vancomycin - [**2179-2-8**] 08:32 AM
   Ciprofloxacin - [**2179-2-8**] 10:13 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-2-8**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-2-9**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 96 (90 - 112) bpm
   BP: 134/68(83) {134/62(82) - 209/115(138)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.6 kg (admission): 53 kg
   Height: 68 Inch
             Total In:
                                                                  3,777 mL
                                                                  1,395 mL
   PO:
                                                                  2,435 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,342 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                  5,255 mL
                                                                  2,880 mL
   Urine:
                                                                  4,805 mL
                                                                  2,880 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -1,478 mL
                                                                 -1,485 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Reduced hearing acuity
   Labs / Radiology
   11.3 g/dL
   155 K/uL
   146 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.9 mEq/L
   21 mg/dL
   111 mEq/L
   146 mEq/L
   35.2 %
   15.9 K/uL
        [image002.jpg]
                             [**2179-2-5**]  03:39 PM
                             [**2179-2-5**]  03:54 PM
                             [**2179-2-5**]  09:27 PM
                             [**2179-2-6**]  03:07 AM
                             [**2179-2-6**]  12:19 PM
                             [**2179-2-6**]  11:38 PM
                             [**2179-2-7**]  04:50 AM
                             [**2179-2-7**]  02:32 PM
                             [**2179-2-8**]  02:32 AM
                             [**2179-2-9**]  03:13 AM
   WBC
   20.1
   24.5
   23.8
   15.9
   Hct
   27.1
   29.0
   29.9
   31.8
   32.3
   35.2
   Plt
   158
   180
   176
   155
   Cr
   3.1
   2.9
   1.9
   1.7
   1.4
   1.1
   TropT
   0.11
   0.11
   0.09
   Glucose
   108
   134
   141
   279
   132
   146
   Other labs: PT / PTT / INR:14.7/40.4/1.3, CK / CKMB /
   Troponin-T:131/4/0.09, ALT / AST:19/44, Alk Phos / T Bili:64/0.5,
   Differential-Neuts:94.3 %, Lymph:3.1 %, Mono:1.5 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   SEPTIC SHOCK
  Resolved, GNRs and GPCs bacteremia, Proteus in urine.
   Attributed to urinary source, although polymicrobial sepsis suggests
   potetial GI source (bowel microperferation), and diarrhea (possible C.
   Diff).  Continue current level of care, and empirical antimicrobials.
   RENAL CYSTS/MASS --  would require further imaging (Abd/pelvic CT).
   Urology and IR recommend further imating prior to considering
   percutaneous drainage.
   BACTEREMIA -- Enterococcus, and 2 GNRs (awaiting identification).
   Possible urinary source, but consider GI source.  Continue
   antimicrobials --> Vanco, Cipro, and consider emipirical Flagyl PO.
   HYPERTENSION
  Receiving atenolol and lisinopril prior to admission.
   Now on captopril (creatinine improved) and nifedipine with improved
   control.  Goal BP= 150-170 mmHg.
   TACHYCARDIA -- Narrow complex, intermittently irregular rhythm.
   Anxiety.  Monitor.  Use b-blocker.
   RENAL FAILURE, ACUTE
 Likely pre-renal and ATN, now rapidly improving.
   HYPERNATREMIA -- Volume resussitation.  Monitor Na+, provide free H2O
   --> replete iv if inadequate POs.
   NUTRITIONAL SUPPORT -- PO.  Provide suppliments.
   HEMATURIA -- Resoved.  Markedly elvated PSA
 Hematuria resolved, off
   of CBI.  Will discuss with urology about follow-up of PSA
   HYPOTHYROIDISM
 continue synthroid.
   DEMENTIA
 Extent of dementia unclear, may be siginificant component of
   deafness limiting communications.  On donepizil and risperidone.
   CAD --  troponin leak in setting of hypotension (demand), now
   declining.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-2-5**] 12:54 PM
   18 Gauge - [**2179-2-5**] 12:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill